US04230848
For illustrative purposes, ths invention will be exemplified by the O-demethylation of fortimicin A and fortimicin B. Generally speaking, in the practice of the preferred embodiment of this invention, to obtain a 3-O-demethylfortimicin, for example 3-O-demethylfortimicin A, in approximately thirty percent yield, fortimicin A free base is dissolved in methylene chloride, preferably in an amount of from about 1.0 to about 100 mg (0.0025 to 0.25 mmole) of fortimicin A free base to each ml of an inert solvent such as methylene chloride, and the reaction mixture is cooled to a temperature of from about -72° to about 4° C., preferably about 0° C. and treated with from about 10 to about 100 equivalents of a boron trihalide selected from the group consisting of boron tribromide, boron trichloride and boron triiodide with stirring for about 10 to 60 minutes, preferably for about 30 minutes at a temperature of from about -72° to about 4° C., preferably at about 0° C.

reactant | fortimicin A | C[C@@H]([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H]([C@@H]([C@@H]([C@H]([C@H]2O)N(C)C(=O)CN)OC)O)N)N)N.OS(=O)(=O)O
reactant | fortimicin B | CC(C1CCC(C(O1)OC2C(C(C(C(C2O)NC)OC)O)N)N)N | C15H32N4O5
product | 3-O-demethylfortimicin A | approximately thirty percent yield | CC(C1CCC(C(O1)OC2C(C(C(C(C2O)N(C)C(=O)CN)O)O)N)N)N | C16H33N5O6
